US07691882B2
4-(5-Methyl-furan-2-ylmethyl)-benzaldehyde
To a mixture of (4-(5-methyl-furan-2-ylmethyl)-phenyl)-methanol (350 mg, 1.7 mmol) obtained in Manufacturing Example 46-1-2 and dichloromethane (10 mL) was added manganese dioxide (3.5 g, 4.7 mmol) at room temperature, which was stirred overnight at room temperature. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:6) to obtain the title compound (100 mg, 29%).

reactant | (4-(5-methyl-furan-2-ylmethyl)-phenyl)-methanol | 1.7 mmol, 350 mg | CC1=CC=C(O1)CC1=CC=C(C=C1)CO | C13H14O2
catalyst | manganese dioxide | 4.7 mmol, 3.5 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(5-Methyl-furan-2-ylmethyl)-benzaldehyde | 100 mg, 29% | CC1=CC=C(O1)CC1=CC=C(C=O)C=C1 | C13H12O2
